US04996215
4-(4-Methylsulfonylaminobenzoyl)-1-[3-(4-pyridyl)propyl]piperidine dihydrochloride
0.295 g (0.926 mmol) of 4-(4-methylsulfonylaminobenzoyl)piperidine hydrochloride and 0.380 g (4.52 mmol) of sodium hydrogencarbonate were suspended in 4 ml of dimethylformamide and the suspension was stirred at 85° C. for 40 min. 0.20 g (1.04 mmol) of 4-(3-chloropropyl)pyridine hydrochloride and 0.31 g (1.87 mmol) of potassium iodide were added to the suspension and the mixture was stirred at 85° C. for 1.5 h. The liquid reaction mixture was filtered and the filtrate was concentrated. The obtained residue was purified according to silica gel column chromatography (chloroform:methanol:aqueous ammonia=96:4:0.4). The purified product was converted into its hydrochloride with ethanolic hydrogen chloride and recrystallized from ethanol to obtain 0.288 g (66%) of the intended compound.

reactant | 4-(4-methylsulfonylaminobenzoyl)piperidine hydrochloride | 0.926 mmol, 0.295 g | Cl.CS(=O)(=O)NC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | sodium hydrogencarbonate | 4.52 mmol, 0.380 g | C(O)([O-])=O.[Na+]
reactant | 4-(3-chloropropyl)pyridine hydrochloride | 1.04 mmol, 0.20 g | Cl.ClCCCC1=CC=NC=C1
reactant | potassium iodide | 1.87 mmol, 0.31 g | [I-].[K+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 4-(4-Methylsulfonylaminobenzoyl)-1-[3-(4-pyridyl)propyl]piperidine dihydrochloride | 0.288 g, 66% | Cl.Cl.CS(=O)(=O)NC1=CC=C(C(=O)C2CCN(CC2)CCCC2=CC=NC=C2)C=C1 | InChI=1S/C21H27N3O3S.2ClH/c1-28(26,27)23-20-6-4-18(5-7-20)21(25)19-10-15-24(16-11-19)14-2-3-17-8-12-22-13-9-17;;/h4-9,12-13,19,23H,2-3,10-11,14-16H2,1H3;2*1H
